US08236826B2
Production of 2-{4-[3-(t-butyldimethylsilanyloxy)-propyl]phenoxy}-5-nitropyridine
To a solution of 3-[4-(5-nitropyridin-2-yloxy)phenyl]-n-propanol (1.17 g, 4.3 mmol) in DMF (10 mL) were added imidazole (580 mg, 8.5 mmol) and t-butylchlorodimethylsilane (640 mg, 4.2 mmol), and the resulting solution was stirred for 13 hours at room temperature. Water was added to the reaction mixture, and extracted with diethyl ether, and the diethyl ether layer was washed with water and then brine. The diethyl ether layer was dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1), to thereby yield 1.14 g of the title compound.

reactant | 3-[4-(5-nitropyridin-2-yloxy)phenyl]-n-propanol | 4.3 mmol, 1.17 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CCCO | C14H14N2O4
reactant | imidazole | 8.5 mmol, 580 mg | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodimethylsilane | 4.2 mmol, 640 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{4-[3-(t-butyldimethylsilanyloxy)-propyl]phenoxy}-5-nitropyridine | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C20H28N2O4Si
